US07030128B2
A stirred solution of 2,6-dibromopyridine (4.0 g, 16.5 mmol) and tert-butylamine (1.8 ml, 17.2 mmol) in dimethylsulfoxide (10 ml) was heated at 100° C. in a sealed tube for 20 h. After cooling to ambient temperature the reaction was diluted with water and extracted into dichloromethane. Combined organic extracts were washed with water and saturated brine then dried over magnesium sulfate, filtered and evaporated in vacuo to give a solid. Purification by chromatography on silica gel eluting with 20% diethyl ether in isohexane gave 6-bromo-N-(tert-butyl)pyridin-2-ylamine (0.4 g) as a solid: δH (360 MHz, CDCl3) 1.40 (9H, s), 6.34 (1H, d, J 8), 6.66 (1H, d, J 8), 7.18 (1H, dd, J 8 and 8); m/z (ES+) 229/231 (M++H).

reactant | 2,6-dibromopyridine | 16.5 mmol, 4.0 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | tert-butylamine | 17.2 mmol, 1.8 ml | C(C)(C)(C)N | C4H11N
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 6-bromo-N-(tert-butyl)pyridin-2-ylamine | 0.4 g | BrC1=CC=CC(=N1)NC(C)(C)C | C9H13BrN2
